US08871756B2
N-[2-(2,3-Dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinazolin-4-yl]-2,2-difluoropropane-1,3-diamine
The title compound was prepared in analogy to Example 55-1 in Scheme 23 by using 2,4-dichloro-6-methylquinazoline, 2,2-difluoropropane-1,3-diamine and 2,3,4,5-tetrahydro-1,4-benzothiazepine. MS obsd. (ESI+) [(M+H)+] 416, 1H NMR (400 MHz, CD3OD) δ ppm 7.96 (s, 1 H), 7.80-7.68 (m, 1 H), 7.60-7.58 (m, 2 H), 7.51-7.49 (m, 1 H), 7.30-7.27 (t, 1 H), 7.24-7.20 (t, 1 H), 5.15 (s, 2 H), 4.37-4.31 (m, 4 H), 3.51-3.49 (m, 4 H), 3.14 (s, 2 H), 2.45 (s, 3 H).

reactant | 2,4-dichloro-6-methylquinazoline | ClC1=NC2=CC=C(C=C2C(=N1)Cl)C | C9H6Cl2N2
reactant | 2,2-difluoropropane-1,3-diamine | FC(CN)(CN)F | C3H8F2N2
reactant | 2,3,4,5-tetrahydro-1,4-benzothiazepine | S1CCNCC2=C1C=CC=C2 | C9H11NS
product | N-[2-(2,3-Dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinazolin-4-yl]-2,2-difluoropropane-1,3-diamine | S1CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=N2)NCC(CN)(F)F)C | C21H23F2N5S
